US06642332B1
2-(4-Bromophenyl)-5-phenyl-oxadiazole (2.0 g, 6.64 mmol) was dissolved in degassed toluene (30 ml). Pd(PPh3)4 (0.15 g, 0.133 mmol) and nBu3Sn(CHCH2)(2.11 g, 6.64 mmol) were added under dry nitrogen. The solution was refluxed for 4 hours, cooled, and evaporated to give a yellow solid. This solid was dissolved in toluene (20 ml), silica added (20 g) and the solvent removed in vacuo. This solid was placed on top of a short column of silica and flushed with hexane to remove nBu3SnBr, and the column then stripped with methanol. The methanol was evaporated, and the residue recrystallised from hexane to give white crystals of 2-(4-vinylphenyl)-5-phenyloxadiazole, (m.pt. 83-84° C., lit.ii 82-84° C.)1.1 g, 67%. 1H NMR (CDCl3, 300 MHz) δ 8.1-8.0 (m, 4H, aromatic CH), 7.6-7.6 (m,5H, aromatic CH), 6.77 (d of d, 3JHH 17.4 Hz and 10.8 Hz, ChCH2), 6.90 (d, 3JHH 17.4 Hz, CHCH2), (d of d, 3JHH 10.8 Hz, CHCH2).

reactant | 2-(4-Bromophenyl)-5-phenyl-oxadiazole | 6.64 mmol, 2.0 g | BrC1=CC=C(C=C1)N1OC(=CN1)C1=CC=CC=C1 | C14H11BrN2O
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.133 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-vinylphenyl)-5-phenyloxadiazole | C(=C)C1=CC=C(C=C1)N1OC(=CN1)C1=CC=CC=C1 | C16H14N2O
